US07375099B2
N-(3,4-Dimethoxy-benzyl)-2-methyl-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide
The title compound, MS: m/e=515.3 (M+H+), was prepared in analogy to example 16 from 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 2-methyl-N-(3,4-dimethoxy-benzyl)-malonamic acid.

reactant | 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 2-methyl-N-(3,4-dimethoxy-benzyl)-malonamic acid | CC(C(=O)O)C(=O)NCC1=CC(=C(C=C1)OC)OC | C13H17NO5
product | N-(3,4-Dimethoxy-benzyl)-2-methyl-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide | COC=1C=C(CNC(C(C(=O)NC2N=C(C3=C(N(C2=O)C)C=CC=C3)C3=CC=CC=C3)C)=O)C=CC1OC | C29H30N4O5
